US04683306
Preparation of N-(2-pyridyl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide
2.36 g (0.005 mole) N-(2-pyridyl)-4-(benzenesulfonyl)-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide was dissolved in 50 ml water containing 1.0 g sodium hydroxide. After it was completely hydrolysed, the solution was neutralized with conc-hydrochloric acid to form precipitates. The obtained precipitates were filtered and recrystalized with methanol and N,N-dimethyl formamide and n-hexane to obtain 1.51 g of the title compound. Yield: 91%. m.p. 198°-201° C.

reactant | N-(2-pyridyl)-4-(benzenesulfonyl)-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 0.005 mole, 2.36 g | N1=C(C=CC=C1)NC(=O)C=1N(S(C2=C(C1S(=O)(=O)C1=CC=CC=C1)C=CC=C2)(=O)=O)C | C21H17N3O5S2
reactant | hydrochloric acid | Cl | ClH
reactant | water | 50 ml, 1.0 g | O | H2O
product | N-(2-pyridyl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 1.51 g, Yield: 91% | N1=C(C=CC=C1)NC(=O)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)C | C15H13N3O4S
